US06410729B1
4-Methoxy-5-phenyl-2,6-bis-(4-pyridyl)-pyrimidine
A mixture of 5-phenyl-2,6-bis-(4-pyridyl)-4(3H)-pyrimidinone (360 mg, 1.10 mmol) and phosphorus oxychloride (2 ml) was heated at reflux for 1.5 h. Work-up was done as described for the preparation of 2-chloro-5-(4-fluorophenyl)-4-(4-pyridyl)-pyrimidine. To a solution of the crude 4-chloro-5-phenyl-2,6-bis-(4-pyridyl)-pyrimidine (250 mg, 0.73 mmol) in methanol (5 ml) was added methanolic 0.5 N sodium methoxide (1.45 ml, 0.73 mmol) and it was heated at reflux for 1 h. After evaporation, the resultant material was partitioned between ethyl acetate and water. The organic solution was washed with water, dried and evaporated. Chromatography of the crude product on a column of silica gel (ethyl acetate) provided the title compound. MS (m/z): 341.2 (M+H)+; C21H16N4O requir. 340.4 1H-NMR (CDCl3) 8.82, 8.54, 8.40 (3m, each 2H, Pyrid.), 7.40-7.18, (m, 7H, Ph. Pyrid.), 4.15 (s, 3H, CH3O).

reactant | 5-phenyl-2,6-bis-(4-pyridyl)-4(3H)-pyrimidinone | 1.10 mmol, 360 mg | C1(=CC=CC=C1)C=1C(NC(=NC1C1=CC=NC=C1)C1=CC=NC=C1)=O | C20H14N4O
reactant | phosphorus oxychloride | 2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-chloro-5-(4-fluorophenyl)-4-(4-pyridyl)-pyrimidine | ClC1=NC=C(C(=N1)C1=CC=NC=C1)C1=CC=C(C=C1)F | C15H9ClFN3
reactant | 4-chloro-5-phenyl-2,6-bis-(4-pyridyl)-pyrimidine | 0.73 mmol, 250 mg | ClC1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=NC=C1)C1=CC=NC=C1 | C20H13ClN4
reactant | sodium methoxide | 0.73 mmol, 0.5 N, 1.45 ml | C[O-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 4-Methoxy-5-phenyl-2,6-bis-(4-pyridyl)-pyrimidine | COC1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=NC=C1)C1=CC=NC=C1 | C21H16N4O
